US07288537B2
1-{(S)-1-(tert-Butyl-diphenyl-silanyloxymethyl)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-propyl}-3-(3,5-dimethoxy-phenyl)-1-methyl-urea is deprotected in the same manner as 1-(3,5-Dimethoxy-phenyl)-3-{(S)-3-[3-(4-fluoro-benzoyl)-azetidin-1-yl]-1-hydroxymethyl-propyl}-urea in Example 34 to afford 3-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-1-(3,5-dimethoxy-phenyl)-1-methyl-urea. [M+H] 463.5

reactant | 1-{(S)-1-(tert-Butyl-diphenyl-silanyloxymethyl)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-propyl}-3-(3,5-dimethoxy-phenyl)-1-methyl-urea | C(C)(C)(C)[SiH2]OC([C@H](CCN1CC(C1)OC1=CC=C(C=C1)Cl)N(C(=O)NC1=CC(=CC(=C1)OC)OC)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H48ClN3O5Si
reactant | 1-(3,5-Dimethoxy-phenyl)-3-{(S)-3-[3-(4-fluoro-benzoyl)-azetidin-1-yl]-1-hydroxymethyl-propyl}-urea | COC=1C=C(C=C(C1)OC)NC(=O)N[C@@H](CCN1CC(C1)C(C1=CC=C(C=C1)F)=O)CO | C23H28FN3O5
product | 3-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-hydroxymethyl-propyl}-1-(3,5-dimethoxy-phenyl)-1-methyl-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](CO)NC(N(C)C2=CC(=CC(=C2)OC)OC)=O)C=C1 | C23H30ClN3O5
